US09163011B2
Acid-11: 3-Chloro-5-[3-(tetrahydro-pyran-2-yloxy)-prop-1-ynyl)-pyridine-2-carboxylic acid
The title compound was prepared by an analogous procedure to Acid-xx using 5-bromo-3-chloro-pyridine-2-carboxylic acid methyl ester instead of 3-amino-5-bromo-pyridine-2-carboxylic acid methyl ester and 2-prop-2-ynyloxy-tetrahydro-pyran instead of 3-methoxy-propyne [Acid-xx step a)].

reactant | 5-bromo-3-chloro-pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(C=C1Cl)Br | C7H5BrClNO2
reactant | 2-prop-2-ynyloxy-tetrahydro-pyran | C(C#C)OC1OCCCC1 | C8H12O2
product | 3-Chloro-5-[3-(tetrahydro-pyran-2-yloxy)-prop-1-ynyl)-pyridine-2-carboxylic acid | ClC=1C(=NC=C(C1)C#CCOC1OCCCC1)C(=O)O | C14H14ClNO4
